US07125896B2
b) 1-(4-Iodophenyl) pyrrolidine
Iodine (6.09 g) was added slowly to a stirred solution of phenylpyrrolidine (3.21 g) and sodium bicarbonate (2.75 g) in water (30 ml). The reaction was stirred for 1 h and then left to stand overnight. The solid was isolated by filtration, dissolved in ethanol (506 ml) and discoloured with aqueous sodium thiosulfate. The product was then isolated by filtration and recrystalised from ethanol to give the desired product as a brown/red powder (1.17 g).

reactant | Iodine | 6.09 g | II | I2
reactant | phenylpyrrolidine | 3.21 g | C1(=CC=CC=C1)N1CCCC1 | C10H13N
reactant | sodium bicarbonate | 2.75 g | C([O-])(O)=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 30 ml | O | H2O
solvent | ethanol | 506 ml | C(C)O | C2H6O
product | 1-(4-Iodophenyl) pyrrolidine | 1.17 g | IC1=CC=C(C=C1)N1CCCC1 | C10H12IN
